US07329662B2
2-(4-Trifluoromethyl-phenyl)-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile
Reaction of 1-(4-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (284 mg, 1.0 mmol), prepared from commercially available 4-trifluoromethyl-acetophenone according to general procedure A, and 4-amino-5-cyano-1H-imidazole (108 mg, 1.0 mmol) according to general procedure B yielded the title compound as a yellow solid (151 mg, 42%). MS (ISP) 357.0 [(M+H)+]; mp 236° C.

reactant | 1-(4-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 284 mg | FC(C1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O)(F)F | C11H6F6O2
reactant | 4-amino-5-cyano-1H-imidazole | 1.0 mmol, 108 mg | NC=1N=CNC1C#N | C4H4N4
product | 2-(4-Trifluoromethyl-phenyl)-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile | 151 mg, 42% | FC(C1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)C=NC2C#N)(F)F | C15H6F6N4
